US04001419
A solution of xanthene (9.1 g.) in dimethyl sulphoxide (75 ml.) is added dropwise over 20 minutes at room temperature to a solution of sodium methylsulphinylmethide [prepared in the usual way from sodium hydride (8 g. of a 60 % dispersion in mineral oil) and dimethyl sulphoxide (100 ml.)] with stirring in an atmosphere of nitrogen. The blood-red mixture is stirred at room temperature for a further 30 minutes, cooled to 0° C., and a solution of N-methyldi-(2-chloroethyl)amine (9.6 g.) in dimethyl sulphoxide (20 ml.) is then added dropwise during 15 minutes, keeping the temperature below 20° C. Water (500 ml.) is added to the now colourless mixture, and the mixture is extracted three times with ether. The combined ether extracts are dried over MgSO4, evaporated to dryness and the gummy residue (12.2 g.) is chromatographed on basic alumina (Brockmann Grade III), eluting with increasing concentrations of chloroform in light petroleum (b.p. 60-80° C.). Elution with 5% chloroform in light petroleum gives, on evaporation of the solvent, a gum which is dissolved in ether and treated with ethereal hydrochloric acid. The solid is recrystallised from ethanol-ether to give 1'-methylxanthene-9-spiro-4'-piperidine hydrochloride, m.p. 220°-222° C.

reactant | xanthene | 9.1 g | C1=CC=CC=2OC3=CC=CC=C3CC12 | C13H10O
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | N-methyldi-(2-chloroethyl)amine | 9.6 g | CN(CCCl)CCCl | C5H11Cl2N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulphoxide | 75 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | Water | 500 ml | O | H2O
product | 1'-methylxanthene-9-spiro-4'-piperidine hydrochloride | Cl.CN1CCC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12 | InChI=1S/C18H19NO.ClH/c1-19-12-10-18(11-13-19)14-6-2-4-8-16(14)20-17-9-5-3-7-15(17)18;/h2-9H,10-13H2,1H3;1H
